US04582837
6-Methyl-2-(2'-methoxy-4'-methanesulfonylamino-phenyl)-imidazo[4,5-b]pyridine
Prepared analogously to Example 14 from 5-methyl-2,3-diaminopyridine and 2-methoxy-4-methanesulfonylamino-benzoic acid.

reactant | 5-methyl-2,3-diaminopyridine | CC=1C=C(C(=NC1)N)N | C6H9N3
reactant | 2-methoxy-4-methanesulfonylamino-benzoic acid | COC1=C(C(=O)O)C=CC(=C1)NS(=O)(=O)C | C9H11NO5S
product | 6-Methyl-2-(2'-methoxy-4'-methanesulfonylamino-phenyl)-imidazo[4,5-b]pyridine | CC=1C=C2C(=NC1)N=C(N2)C2=C(C=C(C=C2)NS(=O)(=O)C)OC | C15H16N4O3S
